Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Garbled speech -  out of order but not slurred.
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Patient is a ___ RHM with type 2 DM on OHA comes from OSH for 
evaluation of an episode of " speech difficulty."

He was at home this afternoon and was with his family. They were 
talking and in the midst of conversion, he suddenly had 
difficulty in speaking and could not say one of their friends 
name correctly. His son requested him to recite the alphabets "A 
B C" which he could not and said "A zeta.."  Per patient he was 
able to understand what others were speaking but could not get 
words out
of mouth in the correct order. The episode lasted for 5 mins per 
his family. 

Given the abnormal speech, he was drived to an OSH per family.  
He denies any associated symptoms including visual disturbance, 
HA, weakness or numbness.  There was no trauma. 

At the OSH, his Temp 97, 80, 143/86, 18 /min, 96 SaO2. CBC 
showed WBC
9.8, Hb 15, Plt 218, Chem 7 was normal. BS was 182, ca was 9.5. 
CT head didnt show any acute pathology. He was sent to ___ for 
neuro evaluation.

ROS: negative than mentioned. No fevers, or similar episodes in 
the past. 
 
Past Medical History:
Hypertension
DM 
Hx of DVT ___ years ago
 
Social History:
___
Family History:
No history of seizures or early deaths from strokes or CAD.
 
Physical Exam:
Vitals: Temp:98.3 HR:94 BP:147/79 Resp:20 O(2)Sat:98 Normal 
Neck: Supple.  No nuchal rigidity  
Pulmonary: Lungs CTA bilaterally without R/R/W  
Cardiac: RRR, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, no masses or organomegaly noted.  
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.  
Skin: no rashes or lesions noted.  

Neurologic:  
-Mental Status: Alert, oriented x 3. attentive. Able to relate 
history without difficulty. Attentive, language is fluent with 
intact comprehension. Normal prosody. Two paraphasic errors 
during the interview.  Speech was not dysarthric. Able to follow 
both midline and appendicular commands. The pt. had good 
knowledge of current events. There was no evidence of apraxia or 
neglect.  

CN
I: not tested  
II,III: VFF to confrontation, pupils 3mm->2mm bilaterally, fundi 
normal.
III,IV,V: EOMs full, no nystagmus. No ptosis.
V: sensation intact V1-V3 to light touch. Jaw opening 
strong/symmetric.
VII: Face symmetric smile/brow raise
VIII: Intact and equal to finger rub bilaterally
IX,X: Palate elevates symmetrically, uvula midline
XI: SCM/trapezeii ___ bilaterally
XII: Tongue protrudes midline with full movement, no dysarthria  


Motor: Normal bulk and tone; no asterixis or myoclonus. No 
drift.
   Delt Bi  Tri  WE FE Grip  IO
   C5   C6  C7   C6 C7 C8/T1 T1  
L  5    5   5    ___     5  
R  5    5   5    ___     5

  IP Quad ___  PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L  5  5     5    5 5    5    
R  5  5     5    5 5    5  

Reflex: No clonus, Plantar responses go down  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   1   1  Down
R ___   1   1  Down 

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. 

-Coordination: FNF, HKS with no dysmetria or tremor. No 
dysdiadochokinesia.

-Gait: Mildly wide based but normal gait, unable to tandem.

 
Pertinent Results:
___ 09:15PM BLOOD WBC-10.2 RBC-4.85 Hgb-14.6 Hct-41.7 
MCV-86 MCH-30.1 MCHC-35.0 RDW-13.5 Plt ___
___ 09:15PM BLOOD ___ PTT-23.4 ___
___ 05:25AM BLOOD Glucose-179* UreaN-22* Creat-1.2 Na-137 
K-4.1 Cl-105 HCO3-23 AnGap-13
___ 05:25AM BLOOD ALT-25 AST-25 AlkPhos-37* TotBili-0.4
___ 05:25AM BLOOD %HbA1c-7.2* eAG-160*
___ 05:25AM BLOOD Albumin-3.9 Calcium-9.1 Phos-3.7 Mg-1.8 
Cholest-176
___ 05:25AM BLOOD Triglyc-96 HDL-40 CHOL/HD-4.4 LDLcalc-117

MRI/A of head and neck:
There is no evidence of acute intracranial hemorrhage, mass, 
mass effect or shifting of the normally midline structures. The 
ventricles and sulci are slightly prominent, likely age related 
and involutional in nature. On T2 and FLAIR sequences, multiple 
foci of high signal intensity are identified in the subcortical 
and periventricular white matter, slightly larger on the left 
frontal region (image 18, series #3), measuring approximately 
10.1 x 15.5 mm in size, no diffusion abnormalities are detected 
to suggest acute/subacute ischemic changes. There is no evidence 
of magnetic susceptibility areas to indicate blood product 
deposits. Normal flow void signal is identified at the major 
vascular structures. The orbits, the paranasal sinuses and 
mastoid air cells are grossly unremarkable. 
  
IMPRESSION: There is no evidence of diffusion abnormalities to 
indicate 
acute/subacute ischemic changes. Multiple scattered foci of high 
signal intensity are demonstrated in the subcortical and 
periventricular white matter, indicating chronic microvascular 
ischemic disease, larger area of possible chronic ischemia is 
noted on the left frontal lobe, however if there is any other 
clinical concern, correlation with MRI with contrast is 
recommended if clinically warranted, there is no evidence of 
mass effect or hydrocephalus. 
  
MRA OF THE CIRCLE OF ___: There is evidence of vascular flow 
in both internal carotids as well as in the vertebrobasilar 
system with no evidence of vascular stenosis or aneurysms larger 
than 2 mm in size. 
  
IMPRESSION: Essentially normal MRA of the head. 
  
MRA OF THE NECK: 
The origin of the supra-aortic vessels appears normal, both 
common carotids as well as the vertebral arteries are patent, 
the cervical carotid bifurcations are normal with no evidence of 
flow or stenotic lesions and the vertebrobasilar system appears 
unremarkable. 
  
IMPRESSION: Essentially normal MRA of the neck. 

Echocardiogram:
Mild symmetric left ventricular hypertrophy with preserved 
global and regional biventricular systolic function. No definite 
structural cardiac source of embolism identified.

EEG: Result pending but prelim read is normal with no evidence 
of discharges.
 
Brief Hospital Course:
Patient is a ___ yo RHM with hx of HTN and DM here after a brief 
episode of speech trouble where he had trouble remembering names 
then had jumbled speech where the words were enunciated 
correctly but were out of order.  Patient was asked to recite 
ABC's per family who was with him but he was not able to recite 
them in sequence hence he was taken to an outside hospital.  The 
episode lasted about 5 minutes per patient's family.

He was transferred here for possible stroke work-up.  He 
underwent MRI and MRA of the head and neck which showed multiple 
small vessel ischemic changes but no hyperintensity on DWI 
sequence to suggest a stroke.  There is a ~1cm x 1cm lesion in L 
frontal lobe that needs to be further elucidated.

His episode did not recur during his admission and he had an 
essentially normal exam except for a couple of paraphasic 
errors.  The speech trouble at home is unclear - possibly a 
seizure activity v. TIA.  He underwent EEG and echolcardiogram 
during this admission that were normal.

Given the unclear lesion in the R frontal lobe, he is scheduled 
to ___ with a MRI of head with contrast.  He will be 
following up with Dr. ___ in the clinic.  In the 
meantime, he is recommended to ___ with his PCP ___ 2 
weeks of discharge and consider starting a cholesterol lowering 
medication given his LDL of 116 and to optimize his diabetes 
control.
 
Medications on Admission:
ASA ___
Metformin 1000 BID
Glyburide 10 BID
Lisinopril 5
Vitamins

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. glyburide 5 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
3. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Speech trouble of unspecified etiology - possible seizure
Small vessel disease
DM II 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital after an approximate 5 minute episode 
of "word salad," where you knew what you wanted to say, but the 
words were coming out in a mixed up order. An MRI of your head 
was performed as were imaging of the blood vessels of your head 
and neck. The imaging of your vessels was normal and there was 
no evidence of acute stroke or mass lesion on the MRI of your 
head, though there was evidence of small vessel disease. 

You also underwent echocardiogram and EEG.  The results of these 
tests will be reviewed with you per Dr. ___ the 
___ visit scheduled as listed below.

Your blood tests including hemoglobin A1C and lipid panel show 
that your diabetes is not ideally controlled and given your 
diabetes, you may benefit from taking a ___ 
medication.  Please speak to your PCP about starting 
___ medication when you ___ with him.  We 
recommend you see him within 1~2 weeks of discharge.
 
Followup Instructions:
___